US06235771B1
To a solution of boron tribromide (25 g) in dichloromethane (100 ml) was added dropwise at 0° C. a solution of 3,4-dimethoxybromobenzene (10.0 g) in dichloromethane (20 ml), and the mixture was stirred at room temperature for 15 hours and then added to ice/water to stop the reaction. The mixture was extracted with diethylether, and the organic layer was washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give colorless crystals of 4-bromocathechol (8.43 g).

reactant | boron tribromide | 25 g | B(Br)(Br)Br | BBr3
reactant | 3,4-dimethoxybromobenzene | 10.0 g | COC=1C=C(C=CC1OC)Br | C8H9BrO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-bromocathechol | 8.43 g | BrC=1C=C(C(O)=CC1)O | C6H5BrO2
